* C:\Users\judes\Desktop\UTD Grad Courses\Spring 2026\EECT 7v88\LTSpice_files\Draft1.asc
* Generated by LTspice 26.0.1 for Windows.
R2 Vn2 0 2
R4 Vn3 Vn4 4
I1 0 Vn1 10
R5 Vn3 Vn1 5
R3 Vn3 Vn2 3
R1 Vn2 Vn1 1
G1 Vn6 Vn4 Vn5 Vn6 0.01
R6 Vn5 Vn1 6
R7 0 Vn6 7
.op
.backanno
.end
